US04254265
5-Trichloromethylthioamino-3-Trichloromethyl-1,2,4Thiadiazole
To a 3-neck flask equipped with condenser, thermometer, and stirring bar was added 11.7 g (0.05 mole) 5-amino-3trichloromethyl-1,2,4-thiadiazole, 5.1 g (0.05 mole) triethylamine and 150 milliliters of benzene. After 9.3 g (0.05 mole) trichloromethane-sulfenyl chloride was added, the reaction mixture was heated at reflux for 16 hours and filtered hot. The filtrate was evaporatd under vacuum to give an orange paste which was triturated with acetonitrile, filered and washed with petroleum ether to obtain 4.4 g (24% yield) of product; mp=180° C.

reactant | 5-amino-3trichloromethyl-1,2,4-thiadiazole | 0.05 mole, 11.7 g | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | triethylamine | 0.05 mole, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | trichloromethane-sulfenyl chloride | 0.05 mole, 9.3 g | ClC(SCl)(Cl)Cl | CCl4S
solvent | benzene | 150 milliliters | C1=CC=CC=C1 | C6H6
product | 5-Trichloromethylthioamino-3-Trichloromethyl-1,2,4Thiadiazole | 4.4 g, 24% yield | ClC(SNC1=NC(=NS1)C(Cl)(Cl)Cl)(Cl)Cl | C4HCl6N3S2
